US07635715B2
Step D: Preparation of Ethyl (6′-chloro-4′-hydroxy-2′-oxo-4,5-dihydro-spiro[furan-3,1′-naphthalen]-3′-yl)carboxylate
Concentrated H2SO4 (66483 mg, 677858 μmol) was cooled to 0° C. and treated with P2O5 (11546 mg, 81343 μmol). The reaction was stirred for 60 minutes and treated with diethyl 2-(3-(4-chlorophenyl)-tetrahydrofuran-3-carbonyl)malonate (5 g, 13557 μmol). After 60 minutes, the reaction was diluted with EtOAc and poured onto ice. The aqueous layer was extracted with EtOAc (3×), and the combined organic layers were washed with brine and dried over MgSO4. Purification by silica flash chromatography (2-5% MeOH/DCM) gave the title compound as a white solid. MS m/e=323.2 (M+H)+.

reactant | H2SO4 | 677858 μmol, 66483 mg | OS(=O)(=O)O | H2O4S
reactant | P2O5 | 81343 μmol, 11546 mg | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | diethyl 2-(3-(4-chlorophenyl)-tetrahydrofuran-3-carbonyl)malonate | 13557 μmol, 5 g | ClC1=CC=C(C=C1)C1(COCC1)C(=O)C(C(=O)OCC)C(=O)OCC | C18H21ClO6
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl (6′-chloro-4′-hydroxy-2′-oxo-4,5-dihydro-spiro[furan-3,1′-naphthalen]-3′-yl)carboxylate | ClC=1C=C2C(=C(C(C3(C2=CC1)COCC3)=O)C(=O)OCC)O | C16H15ClO5
